US07166730B2
A solution of (−)-Corey lactone 5-(4-phenylbenzoate) (17.6 g, 50.0 mmol) and TEMPO (0.16 g, 1.0 mmol) in CH2Cl2 (100 mL) was added to a mixture of NaBr (0.5 g, 5.0 mmol), NaHCO3 (12.6 g, 150.0 mmol) and IPA (6.0 g, 100.0 mmol) in water (100 mL). 5% aq. NaOCl (about 150 mL) was added dropwise to the stirred mixture at −5 to 0° C. until disappearance of Corey lactone (TLC monitoring). The obtained mixture was stirred for 0.5 h at the same temperature. The aqueous layer was separated and extracted with CH2Cl2 (50 mL). The combined organic layer was added dropwise over 1 hour to a stirred mixture of a solution of m-CF3C6H4OCH2COCH2PO(OMe)2 (19.6 g, 60.0 mmol) in CH2Cl2 (20 mL) and 30% NaOH (8.0 g, 60.0 mmol) at 0 to −5° C. The mixture was stirred 1 h at the same temperature and treated with 10% aq. citric acid (100 mL). The aqueous layer was separated and extracted with CH2Cl2 (50 mL). The combined organic layer was dried over Na2SO4, filtered through short silica gel column and concentrated in vacuo. The oily residue (26.96 g) was dissolved in refluxed MeOH (150 mL) and cooled in ice bath. The precipitate was filtered off, washed with cold MeOH and dried in vacuo to give 22.1 g (80%) of (3aR,4R,5R,6aS)-4-[3-oxo-4-[3-(trifluoromethyl)phenoxy]-1E-butenyl]-5-(4-phenylbenzoyloxy)-hexahydro-2H-cyclopenta[b]furan-2-one with 99.1% purity by HPLC: mp 115–116° C.; [α]D20 −118.4° (c 1.0, CHCl3). 1H NMR (CDCl3) δ: 8.02 (d, J=8 Hz, 2H), 7.58 (m, 4H), 7.40 (m, 4H), 7.22 (d, J=8 Hz, 1H), 7.10 (s, 1H), 6.94 (m, 2H), 6.57 (d, J=15.7 Hz, 1H), 5.35 (q, J=5.5 Hz, 1H), 5.09 (t, J=5.5 Hz, 1H), 4.71 (s, 2H), 2.92 (m, 3H), 2.56 (m, 3H).

reactant | (−)-Corey lactone 5-(4-phenylbenzoate) | 50.0 mmol, 17.6 g | C1[C@H]2[C@H](CC(=O)O2)[C@H]([C@@H]1OC(=O)C3=CC=C(C=C3)C4=CC=CC=C4)CO | C21H20O5
reactant | NaBr | 5.0 mmol, 0.5 g | [Na+].[Br-]
reactant | NaHCO3 | 150.0 mmol, 12.6 g | C(=O)(O)[O-].[Na+]
reactant | IPA | 100.0 mmol, 6.0 g | CC(C)O | C3H8O
reactant | NaOCl | about 150 mL | [O-]Cl.[Na+]
reactant | m-CF3C6H4OCH2COCH2PO(OMe)2 | 60.0 mmol, 19.6 g | C(F)(F)(F)C=1C=C(C=CC1)OCC(=O)CP(=O)(OC)OC | C12H14F3O5P
reactant | NaOH | 60.0 mmol, 8.0 g | [OH-].[Na+]
reactant | citric acid | 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | TEMPO | 1.0 mmol, 0.16 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (3aR,4R,5R,6aS)-4-[3-oxo-4-[3-(trifluoromethyl)phenoxy]-1E-butenyl]-5-(4-phenylbenzoyloxy)-hexahydro-2H-cyclopenta[b]furan-2-one | 22.1 g, 80% | O=C(/C=C/[C@H]1[C@@H](C[C@@H]2OC(C[C@@H]21)=O)OC(C2=CC=C(C=C2)C2=CC=CC=C2)=O)COC2=CC(=CC=C2)C(F)(F)F | C31H25F3O6
